US08470859B2
5-chloro-1-[(1R)-2,3-dihydro-1H-inden-1-yl]-2-imino-1,2-dihydropyridine-3-carboxamide hydrochloride
According to the method of Example 168, 2-cyano-2-(3,4-dichloro-5-oxo-2,5-dihydrofuran-2-yl)acetamide was reacted with (R)-(−)-aminoindane to give the title compound.

reactant | 2-cyano-2-(3,4-dichloro-5-oxo-2,5-dihydrofuran-2-yl)acetamide | C(#N)C(C(=O)N)C1OC(C(=C1Cl)Cl)=O | C7H4Cl2N2O3
reactant | (R)-(−)-aminoindane | N[C@@H]1CCC2=CC=CC=C12 | C9H11N
product | 5-chloro-1-[(1R)-2,3-dihydro-1H-inden-1-yl]-2-imino-1,2-dihydropyridine-3-carboxamide hydrochloride | Cl.ClC=1C=C(C(N(C1)[C@@H]1CCC2=CC=CC=C12)=N)C(=O)N | InChI=1S/C15H14ClN3O.ClH/c16-10-7-12(15(18)20)14(17)19(8-10)13-6-5-9-3-1-2-4-11(9)13;/h1-4,7-8,13,17H,5-6H2,(H2,18,20);1H/t13-;/m1./s1
